US05593988
6-(4-Chlorophenyl)-1-undecyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine (1.23 g) was dissolved in dichloromethane (10 ml) and acetic acid (5 ml) and zinc powder (540 mg) were added thereto with stirring. After stirring at room temperature for 6 hours, the mixture was washed with 5% aqueous sodium hydrogencarbonate and water. The reaction mixture was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography and the oily substance obtained was crystallized from ethyl acetate to give 320 mg of 6-(4-chlorophenyl)-1-undecyl-4H,5H,6H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine, mp. 94°-95° C.

reactant | 6-(4-Chlorophenyl)-1-undecyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 1.23 g | ClC1=CC=C(C=C1)C1=NCC=2N(C3=C1C=CC=C3)C(=NN2)CCCCCCCCCCC | C27H33ClN4
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | zinc | 540 mg | [Zn] | Zn
product | 6-(4-chlorophenyl)-1-undecyl-4H,5H,6H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 320 mg | ClC1=CC=C(C=C1)C1NCC=2N(C3=C1C=CC=C3)C(=NN2)CCCCCCCCCCC | C27H35ClN4
